US04012511
1,10-Dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propionaldehyde
N,N-Dicyclohexylcarbodiimide (2.87 g.) is added to a cooled, stirred solution of the primary alcohol, 1,10-dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propanol (1.0 g.), described in Example 462, in 10 ml. of dimethyl sulfoxide-benzene (2:1) containing trifluoroacetic acid (0.18 ml.) and pyridine (0.38 ml.). The reaction is stirred at room temperature under nitrogen for 5 hr. The reaction mixture is now diluted with 100 ml. of ether, followed by the dropwise addition of a solution of oxalic acid (1.26 g.) in 6 ml. of methanol. After thirty minutes, water (100 ml.) is added and the insoluble material is collected. The organic phase is washed with water (2X), 5% aqueous sodium bicarbonate (2X) and water (2X). After drying (MgSO4) the organic phase is evaporated to yield an oil. The oil is purified by chromatography on silica gel. Elution with 10% ether in benzene affords the title compound as an oil, γCHCl3Max 1720 cm-1.

reactant | 1,10-dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propanol | 1.0 g | CC1(OCCN2C1=C(C=1C=CC=CC21)C)CCCO | C16H21NO2
reactant | dimethyl sulfoxide benzene | CS(=O)C.C1=CC=CC=C1
reactant | trifluoroacetic acid | 0.18 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | oxalic acid | 1.26 g | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | pyridine | 0.38 ml | N1=CC=CC=C1 | C5H5N
product | 1,10-Dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propionaldehyde | CC1(OCCN2C1=C(C=1C=CC=CC21)C)CCC=O | C16H19NO2
